US06124330
Benzoyl chloride (0.067 mol) was added to a solution of aminothiocyanate (5.09 g) in 2 propanone (150 ml) and the mixture was stirred and refluxed for 20 minutes. A solution of 4-[1-(1H-imidazol-1-yl)-2-methylpropyl]benzenamine (0.0557 mol) in 2-propanone (150 ml) was added and the mixture was stirred and refluxed at 80° C. overnight. The mixture was cooled, filtered through celite and the filtrate was evaporated. The residue was taken up in CH2Cl2. The organic layer was dried, filtered off and the solvent evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2 /CH3OH/NH4OH 98/2/0.1). The pure fractions were collected and the solvent evaporated, yielding 15.2 g (72%) of (±)-N-benzoyl-N'-[4-[1-(1H-imidazol-1-yl)-2-methylpropyl]phenyl]thiourea (interm. 1).

reactant | Benzoyl chloride | 0.067 mol | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aminothiocyanate | 5.09 g | NSC#N | CH2N2S
reactant | 4-[1-(1H-imidazol-1-yl)-2-methylpropyl]benzenamine | 0.0557 mol | N1(C=NC=C1)C(C(C)C)C1=CC=C(C=C1)N | C13H17N3
solvent | 2-propanone | 150 ml | CC(C)=O | C3H6O
solvent | propanone | 150 ml | CC(C)=O | C3H6O
product | (±)-N-benzoyl-N'-[4-[1-(1H-imidazol-1-yl)-2-methylpropyl]phenyl]thiourea | 15.2 g, 72% | C(C1=CC=CC=C1)(=O)NC(=S)NC1=CC=C(C=C1)C(C(C)C)N1C=NC=C1 | C21H22N4OS
